US04409220
2-Amino-7-butyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine
This compound was prepared analogous to Example 3 from 1-butyl-2,3,6,7-tetrahydro-4,5-bis(trimethylsilyloxy)-azepine and 2-amino-acetamidine dihydrobromide.

reactant | 1-butyl-2,3,6,7-tetrahydro-4,5-bis(trimethylsilyloxy)-azepine | C(CCC)N1CCC(=C(CC1)O[Si](C)(C)C)O[Si](C)(C)C | C16H35NO2Si2
reactant | 2-amino-acetamidine dihydrobromide | Br.Br.NCC(=N)N
product | 2-Amino-7-butyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | NC=1C=NC2=C(CCN(CC2)CCCC)N1 | C12H20N4
